US07592358B2
23.1b. 1-[3-(4-bromo-2-methylphenyl)propyl]-4-methylpiperidine
0.70 g (3.30 mmol) of sodium triacetoxyborohydride and 0.16 mL of glacial acetic acid were added to a solution of 0.32 mL (2.70 mmol) of 4-methylpiperidine and 0.60 g (2.64 mmol) of 3-(4-bromo-2-methylphenyl)propionaldehyde in 10 mL of THF and the mixture was stirred for 2 hours at RT. The reaction mixture was diluted with EtOAc, and the organic phase was washed with semisaturated aqueous sodium bicarbonate solution washed, dried over magnesium sulfate, and evaporated down in vacuo. Yield: 0.65 (78% of theoretical); C16H24BrO (M=310.273); calc.: molpeak (M+H)+: 310/312 (Br); found: molpeak (M+H)+: 310/312 (Br); Rf value: 0.28 (silica gel, PE/EtOAc 3:2).

reactant | sodium triacetoxyborohydride | 3.30 mmol, 0.70 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.16 mL | C(C)(=O)O | C2H4O2
reactant | 4-methylpiperidine | 2.70 mmol, 0.32 mL | CC1CCNCC1 | C6H13N
reactant | 3-(4-bromo-2-methylphenyl)propionaldehyde | 2.64 mmol, 0.60 g | BrC1=CC(=C(C=C1)CCC=O)C | C10H11BrO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-[3-(4-bromo-2-methylphenyl)propyl]-4-methylpiperidine | BrC1=CC(=C(C=C1)CCCN1CCC(CC1)C)C | C16H24BrN
